US07544809B2
4-Chloromethyl-2-(3-methoxyphenyl)-5-methyloxazole (formula XIII)
10.1 g (0.037 mol) of 4-chloromethyl-2-(3-methoxyphenyl)-5-methyloxazole hydrochloride were suspended in 100 ml of water and 75 ml of dichloromethane. With stirring, a pH of 12 was established in the water phase with 45 ml (0.023 mol) of aqueous sodium hydroxide solution. Subsequently, the phases were separated and the aqueous phase was discarded. The organic phase was concentrated by distillation completely under reduced pressure. The remaining oil crystallized through after the addition of seed crystals.

reactant | 4-chloromethyl-2-(3-methoxyphenyl)-5-methyloxazole hydrochloride | 0.037 mol, 10.1 g | Cl.ClCC=1N=C(OC1C)C1=CC(=CC=C1)OC
reactant | sodium hydroxide | 0.023 mol, 45 ml | [OH-].[Na+]
solvent | water | 100 ml | O | H2O
solvent | dichloromethane | 75 ml | ClCCl | CH2Cl2
product | 4-Chloromethyl-2-(3-methoxyphenyl)-5-methyloxazole | ClCC=1N=C(OC1C)C1=CC(=CC=C1)OC | C12H12ClNO2
